US04414388
2-(2,2-Dicarbethoxyethenylamino)-5-ethylthiazole
2-Amino-5-ethylthiazole (11.7 g., 91.3 mmoles) and diethyl ethoxymethylenemalonate (21.7 g., 100.43 mmoles) were combined and heated on a steam bath for 45 minutes. 2-(2,2-Dicarbethoxyethylamino)-5-ethylthiazole (27.2 g., Rf 0.6 and 0.7 respectively, on silica gel thin layer chromatography, with chloroform/1% ethanol and with 2:1 hexane:ethyl acetate as eluant) was obtained as an oil by cooling and used directly in the next step.

reactant | 2-Amino-5-ethylthiazole | 91.3 mmoles, 11.7 g | NC=1SC(=CN1)CC | C5H8N2S
reactant | diethyl ethoxymethylenemalonate | 100.43 mmoles, 21.7 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 2-(2,2-Dicarbethoxyethylamino)-5-ethylthiazole | C(=O)(OCC)C(CNC=1SC(=CN1)CC)C(=O)OCC | C13H20N2O4S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-(2,2-Dicarbethoxyethenylamino)-5-ethylthiazole | C(=O)(OCC)C(=CNC=1SC(=CN1)CC)C(=O)OCC | C13H18N2O4S
